US08748624B2
STEP C: Ethyl 3-(5-(2-(bromomethyl)-3-isopropyl-5-(trifluoromethyl)phenyl)picolinamido)propanoate
Neat CBr4 (57 mg, 0.17 mmol) was added to a DCM solution (5 mL) of ethyl 3-(5-(2-(hydroxymethyl)-3-isopropyl-5-(trifluoromethyl)phenyl)picolinamido)propanoate (75 mg, 0.17 mmol) and PPh3 (45 mg, 0.17 mmol) and the resulting mixture was stirred at room temperature. After 16 h the resulting mixture was concentrated and purified via column chromatography to yield the title compound.

reactant | CBr4 | 0.17 mmol, 57 mg | C(Br)(Br)(Br)Br | CBr4
reactant | ethyl 3-(5-(2-(hydroxymethyl)-3-isopropyl-5-(trifluoromethyl)phenyl)picolinamido)propanoate | 0.17 mmol, 75 mg | OCC1=C(C=C(C=C1C(C)C)C(F)(F)F)C=1C=CC(=NC1)C(=O)NCCC(=O)OCC | C22H25F3N2O4
reactant | PPh3 | 0.17 mmol, 45 mg | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
solvent | DCM | 5 mL | C(Cl)Cl | CH2Cl2
product | Ethyl 3-(5-(2-(bromomethyl)-3-isopropyl-5-(trifluoromethyl)phenyl)picolinamido)propanoate | BrCC1=C(C=C(C=C1C(C)C)C(F)(F)F)C=1C=CC(=NC1)C(=O)NCCC(=O)OCC | C22H24BrF3N2O3
